datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CN=CC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20].O=C([O-])C[O-:10]>>O=C(C1=CN=CC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1.O=C([O-])C[O:10][H:20] 10=20;20,21=21",
"C[C@H]1C[C@@]23[C@@H]4CCC[N+:21]2([H:20])CCC[C@H]3[C@@H](O)C[C@H]4C1=O.O=[N+]([O-])c1cc(Cl)c([O-:10])c(Cl)c1>>C[C@H]1C[C@@]23[C@@H]4CCC[N:21]2CCC[C@H]3[C@@H](O)C[C@H]4C1=O.O=[N+]([O-])c1cc(Cl)c([O:10][H:20])c(Cl)c1 10=20;20,21=21",
"CN(C)c1sc(-c2ccccc2)c[n+:21]1[H:20].O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-:10]>>CN(C)c1sc(-c2ccccc2)c[n:21]1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O:10][H:20] 10=20;20,21=21",
"Cn1ncc2c(NCCO)nc[n+:21]([H:20])c21.Nc1ccc(S(=O)(=O)[N-:10]c2ccncn2)cc1>>Cn1ncc2c(NCCO)nc[n:21]c21.Nc1ccc(S(=O)(=O)[N:10](c2ccncn2)[H:20])cc1 10=20;20,21=21",
"CC(CC1CCCCC1)[NH:10]C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(CC1CCCCC1)[NH+:10](C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC1CC[NH:10]CC1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1CC[NH+:10]([H:20])CC1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[Si](C)(C)CCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[Si](C)(C)CCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCCC[N+:21](CC(C)O)(CC(O)CC)[H:20].O=C(C(O)c1ccccc1[N+](=O)[O-])[O-:10]>>CCCCC[N:21](CC(C)O)CC(O)CC.O=C(C(O)c1ccccc1[N+](=O)[O-])[O:10][H:20] 10=20;20,21=21",
"C[N+:21](C)(CCCCNC(=O)/C=N/[O-])[H:20].Nc1cc[nH+]c([O-])[n:10]1>>C[N:21](C)CCCCNC(=O)/C=N/[O-].Nc1cc[nH+]c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"BrCC(Oc1ccccc1)(c1ccccc1)[O-:10].Clc1ccc(-c2cnc(-c3ccc([NH2+:21][H:20])cc3)o2)cc1>>BrCC(Oc1ccccc1)(c1ccccc1)[O:10][H:20].Clc1ccc(-c2cnc(-c3ccc([NH2:21])cc3)o2)cc1 10=20;20,21=21",
"CC(O)C(=O)C1=Nc2c(nc(N)[n:10]c2[O-])NC1.O=C(c1ccccc1)[N:21](c1nnc(-c2ccccc2)s1)[H:20]>>CC(O)C(=O)C1=Nc2c(nc(N)[n+:10]([H:20])c2[O-])NC1.O=C(c1ccccc1)[N-:21]c1nnc(-c2ccccc2)s1 10=20;20,21=21",
"CC1CC[NH:10]1.Ic1cccc([O:21][H:20])c1>>CC1CC[NH+:10]1[H:20].Ic1cccc([O-:21])c1 10=20;20,21=21",
"CN1C2CCC(CC2)[N:10]1C.C[N+](C)(C)CC(O)CC(=O)[O:21][H:20]>>CN1C2CCC(CC2)[N+:10]1(C)[H:20].C[N+](C)(C)CC(O)CC(=O)[O-:21] 10=20;20,21=21",
"CC1(C)NC(=S)[N:21]([H:20])C1=O.CC[N:10](CC1CO1)CC1CO1>>CC1(C)NC(=S)[N-:21]C1=O.CC[N+:10](CC1CO1)(CC1CO1)[H:20] 10=20;20,21=21",
"Cc1ncc(C(=O)[O:21][H:20])s1.Clc1ccc[n:10]c1>>Cc1ncc(C(=O)[O-:21])s1.Clc1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"NCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>NCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)(C)CC(=O)n1cc(Br)[n:10]c1.C[NH+](C)CCCCNc1cc[n+:21]([H:20])c2cccc([N+](=O)[O-])c12>>CC(C)(C)CC(=O)n1cc(Br)[n+:10]([H:20])c1.C[NH+](C)CCCCNc1cc[n:21]c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"CCCCCCCCCCCC[NH+:21](CCC(=O)[O-])[H:20].CN(C)c1cc[n:10]cn1>>CCCCCCCCCCCC[NH:21]CCC(=O)[O-].CN(C)c1cc[n+:10]([H:20])cn1 10=20;20,21=21",
"C[C@H]1CC[N+:21]2([H:20])CCC[C@@H]12.O=C([O-])c1cc2ccccc2cc1[O-:10]>>C[C@H]1CC[N:21]2CCC[C@@H]12.O=C([O-])c1cc2ccccc2cc1[O:10][H:20] 10=20;20,21=21",
"CC(=O)N1CSCC1C(=O)[O-:10].CC(C)C[C@H](N)C(=O)N[C@@H](CCC(N)=O)C(=O)[O:21][H:20]>>CC(=O)N1CSCC1C(=O)[O:10][H:20].CC(C)C[C@H](N)C(=O)N[C@@H](CCC(N)=O)C(=O)[O-:21] 10=20;20,21=21",
"C[NH+](C)CC[S:21][H:20].O=C(c1cc([N+](=O)[O-])ccc1O)[O-:10]>>C[NH+](C)CC[S-:21].O=C(c1cc([N+](=O)[O-])ccc1O)[O:10][H:20] 10=20;20,21=21",
"CN(C)C(C)(O)[OH:10].O=C(C1=CC=CS1)[O:21][H:20]>>CN(C)C(C)(O)[OH+:10][H:20].O=C(C1=CC=CS1)[O-:21] 10=20;20,21=21",
"Cc1cc[nH+]c([O-])[n:10]1.O=[N+]([O-])c1ccc2[nH]c(CO)[n+:21]([H:20])c2c1>>Cc1cc[nH+]c([O-])[n+:10]1[H:20].O=[N+]([O-])c1ccc2[nH]c(CO)[n:21]c2c1 10=20;20,21=21",
"CN(C)c1ccc2cc3ccc(N(C)C)cc3[n+:21]([H:20])c2c1.c1ccc(CN2CCC([NH2:10])CC2)cc1>>CN(C)c1ccc2cc3ccc(N(C)C)cc3[n:21]c2c1.c1ccc(CN2CCC([NH2+:10][H:20])CC2)cc1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)CCCC2[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2c(c1)CCCC2[NH2+:10][H:20] 10=20;20,21=21",
"C#CC(C)(C)[N:10](C)C(C)(C)C#C.NC1=[NH+][C@H](C(=O)[O-])[C@@H]([C@H](O)C[NH2+:21][H:20])N1>>C#CC(C)(C)[N+:10](C)(C(C)(C)C#C)[H:20].NC1=[NH+][C@H](C(=O)[O-])[C@@H]([C@H](O)C[NH2:21])N1 10=20;20,21=21",
"CCC(C)C(=O)CC[N:10]1CCOCC1.Nc1cc[nH+]c2c1ncn2CCOCP(=O)(O)[O:21][H:20]>>CCC(C)C(=O)CC[N+:10]1([H:20])CCOCC1.Nc1cc[nH+]c2c1ncn2CCOCP(=O)(O)[O-:21] 10=20;20,21=21",
"COc1ccc([O-:10])c(CNC(CO)C(=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc([O:10][H:20])c(CNC(CO)C(=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1CCN(CCC[N+:21]2([H:20])CCCCC2)CC1.CC(=O)c1cccc([O-:10])c1>>C1CCN(CCC[N:21]2CCCCC2)CC1.CC(=O)c1cccc([O:10][H:20])c1 10=20;20,21=21",
"CCCC[NH:10]CCC#N.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCC[NH+:10](CCC#N)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
